US03957766
Preparation of 3-(5-nitro-2-furyl)-6-(4-methyl-1-piperazinyl-methyleneamino)-s-triazolo[4,3-b]pyridazine.
0.9 g. 3-(5-nitro-2-furyl)-6-(ethyoxymethyleneamino)-s-triazolo[4,3-b]pyridazine were dissolved in 20 ml. hot dioxan and mixed, while stirring, with 0.6 g. N-methyl-piperazine at 50°C. After 15 minutes, the crystals formed were filtered off with suction and recrystallized from 15 ml. of a mixture of 70% dioxan and 30 ml. dimethyl formamide. There was thus obtained 0.77 g. 3-(5-nitro-2-furyl)-6-(4-methyl-1-piperazinyl methyleneamino)-s-triazolo[4,3-b]pyridazine, which had a melting point of 247° - 248°C.

reactant | 3-(5-nitro-2-furyl)-6-(ethyoxymethyleneamino)-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CC=C(O1)C1=NN=C2N1N=C(C=C2)N=COCC | C12H10N6O4
reactant | N-methyl-piperazine | CN1CCNCC1 | C5H12N2
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 3-(5-nitro-2-furyl)-6-(4-methyl-1-piperazinyl-methyleneamino)-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CC=C(O1)C1=NN=C2N1N=C(C=C2)N=CN2CCN(CC2)C | C15H16N8O3
